US07186729B2
Step 1: 4-Acetyl-4-(4-chloro-phenyl)-piperidine-1-carboxylic acid tert-butyl ester
To a chilled solution of 1-[4-(4-chloro-phenyl)-piperidin-4-yl]-ethanone (540 mg, 1.98 mmol) in dichloromethane (10 ml) was added triethylamine (0.6 ml, 3.82 mmol), followed by portionwise addition of di-tert-butyl dicarbonate (470 mg, 1.98 mmol). The solution was stirred at room temperature for 16 hours. The reaction mixture was concentrated down, quenched with 1 N aqueous hydrochloric acid, and extracted into dichloromethane. The organic extracts were washed with saturated aqueous sodium bicarbonate solution, brine, dried over magnesium sulfate, and concentrated in vacuo. Recovered oil was purified by silica gel chromatography, eluting with hexane-ethyl acetate (8:2) to give the title compound (445 mg, 67%).

reactant | 1-[4-(4-chloro-phenyl)-piperidin-4-yl]-ethanone | 1.98 mmol, 540 mg | ClC1=CC=C(C=C1)C1(CCNCC1)C(C)=O | C13H16ClNO
reactant | triethylamine | 3.82 mmol, 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.98 mmol, 470 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-Acetyl-4-(4-chloro-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 445 mg, 67% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)Cl)C(C)=O | C18H24ClNO3
